* Coriolis Structural SPICE Driver
* Generated on Apr 13, 2025, 00:43
* Cell/Subckt "rot".
* 
* INTERF vss
* INTERF vdd
* INTERF rotated_bits[7]
* INTERF rotated_bits[6]
* INTERF rotated_bits[5]
* INTERF rotated_bits[4]
* INTERF rotated_bits[3]
* INTERF rotated_bits[2]
* INTERF rotated_bits[1]
* INTERF rotated_bits[0]
* INTERF k[2]
* INTERF k[1]
* INTERF k[0]
* INTERF bits[7]
* INTERF bits[6]
* INTERF bits[5]
* INTERF bits[4]
* INTERF bits[3]
* INTERF bits[2]
* INTERF bits[1]
* INTERF bits[0]

* Terminal models (aka standard cells) used througout all the hierarchy.
.include mux2_x1.spi
.include inv_x0.spi

* Non-terminal models (part of the user's design hierarchy).

.subckt rot 0 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18 19 20
* NET     0 = vss
* NET     1 = vdd
* NET     2 = rotated_bits[7]
* NET     3 = rotated_bits[6]
* NET     4 = rotated_bits[5]
* NET     5 = rotated_bits[4]
* NET     6 = rotated_bits[3]
* NET     7 = rotated_bits[2]
* NET     8 = rotated_bits[1]
* NET     9 = rotated_bits[0]
* NET    10 = k[2]
* NET    11 = k[1]
* NET    12 = k[0]
* NET    13 = bits[7]
* NET    14 = bits[6]
* NET    15 = bits[5]
* NET    16 = bits[4]
* NET    17 = bits[3]
* NET    18 = bits[2]
* NET    19 = bits[1]
* NET    20 = bits[0]
* NET    21 = abc_171_new_n43
* NET    22 = abc_171_new_n41
* NET    23 = abc_171_new_n39
* NET    24 = abc_171_new_n38
* NET    25 = abc_171_new_n36
* NET    26 = abc_171_new_n35
* NET    27 = abc_171_new_n33
* NET    28 = abc_171_new_n32
* NET    29 = abc_171_new_n30
* NET    30 = abc_171_new_n29
* NET    31 = abc_171_new_n27
* NET    32 = abc_171_new_n26
* NET    33 = abc_171_new_n25
* NET    34 = abc_171_new_n24
* NET    35 = abc_171_new_n23
* NET    36 = abc_171_new_n22
* NET    37 = abc_171_new_n21
* NET    38 = abc_171_new_n20

xsubckt_25_mux2_x1 1 0 21 31 37 2 mux2_x1
xsubckt_22_mux2_x1 1 0 22 23 10 4 mux2_x1
xsubckt_8_mux2_x1 1 0 31 34 37 9 mux2_x1
xsubckt_5_mux2_x1 1 0 13 17 12 33 mux2_x1
xsubckt_2_mux2_x1 1 0 20 16 12 36 mux2_x1
xsubckt_11_mux2_x1 1 0 29 34 10 8 mux2_x1
xsubckt_14_mux2_x1 1 0 27 29 10 7 mux2_x1
xsubckt_19_mux2_x1 1 0 24 28 11 23 mux2_x1
xsubckt_24_mux2_x1 1 0 21 22 10 3 mux2_x1
xsubckt_7_mux2_x1 1 0 32 33 38 31 mux2_x1
xsubckt_4_mux2_x1 1 0 35 36 38 34 mux2_x1
xsubckt_1_inv_x0 1 0 10 37 inv_x0
xsubckt_0_inv_x0 1 0 11 38 inv_x0
xsubckt_13_mux2_x1 1 0 28 36 11 27 mux2_x1
xsubckt_16_mux2_x1 1 0 26 30 11 25 mux2_x1
xsubckt_21_mux2_x1 1 0 26 32 38 22 mux2_x1
xsubckt_10_mux2_x1 1 0 30 33 11 29 mux2_x1
xsubckt_9_mux2_x1 1 0 19 15 12 30 mux2_x1
xsubckt_6_mux2_x1 1 0 15 19 12 32 mux2_x1
xsubckt_15_mux2_x1 1 0 17 13 12 26 mux2_x1
xsubckt_18_mux2_x1 1 0 16 20 12 24 mux2_x1
xsubckt_23_mux2_x1 1 0 24 35 38 21 mux2_x1
xsubckt_3_mux2_x1 1 0 14 18 12 35 mux2_x1
xsubckt_12_mux2_x1 1 0 18 14 12 28 mux2_x1
xsubckt_17_mux2_x1 1 0 25 27 10 6 mux2_x1
xsubckt_20_mux2_x1 1 0 23 25 10 5 mux2_x1
.ends rot
